US05013863
A mixture of 3.0 g of 3-aminopropyl(benzyl)phosphinic acid hydrochloride and 0.6 g of Nishimura catalyst in 30 ml of methanol is hydrogenated during 4 hours. The catalyst is filtered off and the solvent removed by evaporation. The residue is dissolved in 20 ml of methanol and 10 ml of propyleneoxide are added to the solution. Stirring for 3 hours affords a white solid which is filtered off and dried over phosphorous pentoxide to yield 3-aminopropyl(cyclohexylmethyl)phosphinic acid, m.p. 230° (dec.).

reactant | 3-aminopropyl(benzyl)phosphinic acid hydrochloride | 3.0 g | Cl.NCCCP(O)(=O)CC1=CC=CC=C1
solvent | methanol | 30 ml | CO | CH4O
product | 3-aminopropyl(cyclohexylmethyl)phosphinic acid | NCCCP(O)(=O)CC1CCCCC1 | C10H22NO2P
